US07585878B2
In 20 ml of 1,2-dichloroethane was dissolved 1.06 g of ethyl 2-(2-oxoethyl)biphenyl-4-carboxylate, and then 3.95 ml of piperidine, 589 μl of acetic acid, and 1.09 g of sodium triacetoxyborohydride were added thereto, followed by 3 hours of stirring. Water and chloroform were added to the reaction solution, and the organic layer obtained by an operation of separation was dried over anhydrous magnesium sulfate, followed by removal of the solvent by evaporation. The obtained residue was purified by silica gel column chromatography (chloroform:methanol:aqueous ammonia) to obtain 1.3 g of oily ethyl 2-(piperidin-1-ylethyl)biphenyl-4-carboxylate.

reactant | ethyl 2-(2-oxoethyl)biphenyl-4-carboxylate | 1.06 g | O=CCC1=C(C=CC(=C1)C(=O)OCC)C1=CC=CC=C1 | C17H16O3
reactant | piperidine | 3.95 ml | N1CCCCC1 | C5H11N
reactant | acetic acid | 589 μl | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 1.09 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 20 ml | ClCCCl | C2H4Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | Water | O | H2O
product | ethyl 2-(piperidin-1-ylethyl)biphenyl-4-carboxylate | 1.3 g | N1(CCCCC1)CCC1=C(C=CC(=C1)C(=O)OCC)C1=CC=CC=C1 | C22H27NO2
